US05175157
3-[(N-(3-(Indol-3-yl)-propyl)-pyrrolidin-3-yl)-methyl]-7,8-methylenedioxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-monohydrate
Prepared from 3-[(N-(3-(indol-3-yl)-propyl)-pyrrolidin-3-yl)-methyl]-7,8-methylenedioxy-2-oxo-1,3-dihydro-2H-3-benzazepine with 20% palladium/charcoal at 5 bar hydrogen in ethanol at 80° C. analogously to Example 5.

reactant | 3-[(N-(3-(indol-3-yl)-propyl)-pyrrolidin-3-yl)-methyl]-7,8-methylenedioxy-2-oxo-1,3-dihydro-2H-3-benzazepine | N1C=C(C2=CC=CC=C12)CCCN1CC(CC1)CN1C=CC2=C(CC1=O)C=C1C(=C2)OCO1 | C27H29N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium/charcoal | [Pd] | Pd
product | 3-[(N-(3-(Indol-3-yl)-propyl)-pyrrolidin-3-yl)-methyl]-7,8-methylenedioxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-monohydrate | O.N1C=C(C2=CC=CC=C12)CCCN1CC(CC1)CN1CCC2=C(CC1=O)C=C1C(=C2)OCO1 | InChI=1S/C27H31N3O3.H2O/c31-27-14-22-13-26-25(32-18-33-26)12-20(22)8-11-30(27)17-19-7-10-29(16-19)9-3-4-21-15-28-24-6-2-1-5-23(21)24;/h1-2,5-6,12-13,15,19,28H,3-4,7-11,14,16-18H2;1H2
